US07985755B2
5-[1-(4-Chlorobenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine hydrochloride (Example-004).
The benzylamine was obtained by reacting 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (75 mg; 0.27 mmol) and 4-chlorobenzyl bromide (66 mg; 0.32 mmol) via Method BB to a solid, which was stirred in the presence of 4M HCl in dioxane (4 eq). Solids were filtered and rinsed once with ether to give title compound. (66 mg; 56% yield). 1HNMR (400 MHz, DMSO-d6) δ 12.9 (s, 1H), 11.3 (s, 1H), 8.82 (s, 1H), 8.23 (s, 1H), 7.7 (m, 4H), 7.52 (d, J=6.8 Hz, 2H), 7.02 (m, 2H), 4.66 (br s, 3H), 4.26 (d, J=4.8 Hz, 2H), 4.17 (d, J=6.4 Hz, 2H), 3.34 (br d, J=11.6 Hz, 2H), 2.87 (m, 2H), 2.2 (m, 1H), 1.81 (m, 4H). MS m/z (ESI) 398 (M+H)+.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.27 mmol, 75 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | 4-chlorobenzyl bromide | 0.32 mmol, 66 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 4 eq | O1CCOCC1 | C4H8O2
product | 5-[1-(4-Chlorobenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine hydrochloride | 56% yield | Cl.ClC1=CC=C(CN2CCC(CC2)COC2=C3C(=NC(=NC3=CC=C2)N)N)C=C1 | InChI=1S/C21H24ClN5O.ClH/c22-16-6-4-14(5-7-16)12-27-10-8-15(9-11-27)13-28-18-3-1-2-17-19(18)20(23)26-21(24)25-17;/h1-7,15H,8-13H2,(H4,23,24,25,26);1H
